US09212190B2
A solution of tert-butyl N-ethyl-N-(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (450 mg, 0.97 mmol, 1.00 equiv) and PDC (1791 mg, 4.76 mmol, 4.88 equiv) in 5 mL of DMF was stirred for 14 hrs at 25° C. After completion, the resulting solution was diluted with water and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with 3×20 mL of brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (2:1) to give 310 mg (67%) of 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](ethyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetic acid as a colorless oil. MS (ES): m/z 476 [M+H]+.

reactant | tert-butyl N-ethyl-N-(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.97 mmol, 450 mg, 1.00 equiv | C(C)N(C(OC(C)(C)C)=O)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO | C24H35N3O4S
reactant | PDC | 4.76 mmol, 1791 mg, 4.88 equiv | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl](ethyl)amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetic acid | 310 mg, 67% | C(C)(C)(C)OC(=O)N(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)O)CC | C24H33N3O5S
